US06521641B1
To a solution of 6-methoxy-2,2-dimethyl-thiochroman-4-one (6.0 g, 27 mmol) in 50 mL CH2Cl2 cooled to −23° C. was added BBr3 (20.0 g, 80.0 mmol; 80.0 mL of a 1M solution in CH2Cl2) over a 20 minute period. After stirring for 5 hours at −23° C. the solution was cooled to −78° C. and quenched by the slow addition of 50 mL of H2O. Upon warming to room temperature the aqueous layer was extracted with CH2Cl2 and the combined organic layers were washed with saturated aqueous NaHCO3, H2O, and saturated aqueous NaCl before being dried over MgSO4. Removal of the solvents under reduced pressure gave a green-brown solid which upon recrystalization (Et2O/hexanes) afforded 2.25 g (40%) of 6-hydroxy-2,2-dimethylthiochroman-4-one as a light brown solid. 1H NMR (300 MHz, CDCl3) δ:7.63 (1H, d, J=2.8 Hz), 7.15 (1H, d, J=8.5 Hz), 7.01 (1H, dd, J=2.8, 8.5 Hz), 2.87 (2H, s), 1.46 (6H, s).

reactant | 6-methoxy-2,2-dimethyl-thiochroman-4-one | 27 mmol, 6.0 g | COC=1C=C2C(CC(SC2=CC1)(C)C)=O | C12H14O2S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-2,2-dimethylthiochroman-4-one | 2.25 g, 40% | OC=1C=C2C(CC(SC2=CC1)(C)C)=O | C11H12O2S
